US05670681
3) Isopropylidenebis(1-indenyl)zirconium dichloride
A solution of 10 g (37 mmol) of 2,2-bisindenylpropane in 30 ml of diethyl ether is admixed at room temperature under argon protection with 29.6 ml (74 mmol) of a 2.5M butyllithium solution in hexane and stirred overnight. After addition of 20 ml of hexane, the beige suspension is filtered and the residue is washed with 20 ml of pentane. The dilithio salt is dried in an oil pump vacuum and then added at -78° C. to a suspension of 8.6 g (37 mmol) of ZrCl4 in dichloromethane. The mixture is warmed to room temperature over a period of 1 hour and stirred for a further 30 minutes at this temperature. After taking off the solvent, the orange-brown residue is extracted with 50 ml of toluene. Taking off the solvent gives 8.8 g (55%) of an orange powder. The ratio of racemate to meso form was determined as 2:1. Recrystallization from toluene enable 4.1 g (26%) of the pure racemate to be obtained.

reactant | 2,2-bisindenylpropane | 37 mmol, 10 g | C1(C=CC2=CC=CC=C12)C(C)(C)C1C=CC2=CC=CC=C12 | C21H20
reactant | butyllithium | 2.5M | C(CCC)[Li]
reactant | ZrCl4 | 37 mmol, 8.6 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | hexane | 20 ml | CCCCCC | C6H14
product | Isopropylidenebis(1-indenyl)zirconium dichloride | 8.8 g, 55% | [Cl-].[Cl-].C(C)(C)=[Zr+2](C1C=CC2=CC=CC=C12)C1C=CC2=CC=CC=C12 | InChI=1S/2C9H7.C3H6.2ClH.Zr/c2*1-2-5-9-7-3-6-8(9)4-1;1-3-2;;;/h2*1-7H;1-2H3;2*1H;/q;;;;;+2/p-2
